* 7591 — beam tetrode (Westinghouse, mid-power ~19 W; Fisher / Scott Hi-Fi).
*
* Norman Koren pentode model. Используется в винтажных Fisher KX-200,
* Scott 299 и т.п.
* tube_type: pentode
* Pins: P (plate), G2 (screen), G (grid 1), K (cathode).
.SUBCKT 7591 P G2 G K
* Koren parameters: MU=10 EX=1.34 KG1=1100 KG2=4200 KP=55 KVB=14
E1 7 0 VALUE={V(G2,K)/55*LN(1+EXP(55*(1/10+V(G,K)/V(G2,K))))}
G1 P K VALUE={(sgn(V(7))*pwr(abs(V(7)),1.34)+sgn(V(7))*pwr(abs(V(7)),1.34))/1100 * ATAN(V(P,K)/14)}
G2 G2 K VALUE={(sgn(V(7))*pwr(abs(V(7)),1.34)+sgn(V(7))*pwr(abs(V(7)),1.34))/4200}
C1 G K 13p
C2 G P 0.6p
C3 P K 8p
RGI G K 1MEG
.ENDS 7591
